datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O+:10](C(C)C([H])C([H])[O]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C([H])[O][C:20]([S]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"C(C([O-:21])[H])(C(O[C:20](=[O:10])OC1=CC=CC=C1)C)C1=CC=CC=C1>>C1(C(O[C:20]([O-:10])([O:21]C1[H])OC1=CC=CC=C1)C)C1=CC=CC=C1 21=20;20,10=10"
"[H][NH+:10](C(CC)C([H])C([H])[NH]1)[C:20]1([NH:21]CC)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])C([H])[NH][C:20]([O]CC)=[NH+:21]CC 21=20;20,10=10"
"[H][S:10]C(CC)C([H])C([H])[O][C:20]([O]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(CC)C([H])C([H])[O]1)[C:20]1([O:21]C)[O]CC 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1CCCCCC)([O-:10])[Cl:21])CCCCCC)C1=CC=CC=C1>>CCCCCCC1C(C(O[C:20](=[O:10])N1CCCCCC)CCCCCC)C1=CC=CC=C1.[Cl-:21] 10=20;20,21=21"
"CN([C:20](=[O:10])OC(C(C([O-:21])[H])[H])C)[H]>>CN([C:20]1(OC(C(C([O:21]1)[H])[H])C)[O-:10])[H] 21=20;20,10=10"
"[H][O:10]C([H])C(C)[O][C:20]([O]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)[O]1)[C:20]1([O:21]C)[O]CC 10=20;20,21=21"
"[H][O+:10](C(CC)C([H])C(C)[O]1)[C:20]1([NH:21][H])[O]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])C(C)[O][C:20]([O]CC)=[NH+:21][H] 21=20;20,10=10"
"[NH:10](C)C(C(C=CC=C9)=C9[C:20](OC)=[O:21])CC>>[O-:21][C:20]2([NH+:10](C)C(C7=C2C=CC=C7)CC)OC 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C([H])[CH]([H])[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C([H])[NH]2.[H][O:10][H] 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CCCCCC)C1=CC=CC=C1)C>>CCCCCCN([C:20]1(OC(C(C([O:21]1)CCCCCC)CCCCCC)C1=CC=CC=C1)[O-:10])C 21=20;20,10=10"
"[H][O:10]C(CC)C(C)C([H])[O][C:20]([S]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C([H])[O]1)[C:20]1([O:21]C)[S]CC 10=20;20,21=21"
"C[NH+:10]([H])[C:20]([NH:21]C)([NH]C)[NH]C.[Cl-]>>[Cl-].C[NH:10][H].C[NH+:21]=[C:20]([NH]C)[NH]C 21=20;20,10=10"
"[O:10]([K])C(C)C([H])C(O)C([H])[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C([H])C(O)C([H])C(C)[O+:10]1([K]) 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([O:21][H])[O][CH](C)C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](C)[CH](C)C(C8=CC=CC=C8)[O]2.CC[O:10][H] 21=20;20,10=10"
"[H][O:10]C(CC)C(C)C(C)[NH][C:20]([NH][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C(C)[NH]1)[C:20]1([NH:21]C)[NH][H] 10=20;20,21=21"
"CC1C(C(O[C:20](N1C)([O-:10])[Cl:21])[H])C1=CC=CC=C1>>CC1C(C(O[C:20](=[O:10])N1C)[H])C1=CC=CC=C1.[Cl-:21] 10=20;20,21=21"
"[NH:10](C)C(C)C([H])C([C:20](OC)=[O:21])O>>[O-:21][C:20]1(OC)[NH+:10](C)C(C)C([H])C1O 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C(C)C(CC)[O][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(C)[S]1)[C:20]1([O:21][Si](C)(C)(C))[O]C.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)[S][C:20]([O]C)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[H][O:10]C(CC)C([H])C(CC)[O][C:20]([S]C)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C(CC)[O]1)[C:20]1([O:21]C)[S]C 10=20;20,21=21"
"[OH:10]C(C)/C([H])=C([C:20](OC)=[OH+:21])/[H]>>[OH:21][C:20]1(OC)[OH+:10]C(C)C([H])=C1[H] 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C(C)[CH](CC)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](C)[CH](C)C(CC)[NH]2.CC[O:10][H] 21=20;20,10=10"
"[H][S:10]C([H])C([H])C(CC)[O][C:20]([S]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C([H])C([H])C(CC)[O]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7 10=20;20,21=21"
"[O:10]([K])C(CCC)/C(O)=C([C:20](OC)=[O:21])/[H]>>[O-:21][C:20]1(OC)[O+:10]([K])C(CCC)C(O)=C1[H] 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH]C(C)C(C)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21][H])[NH]C(C)C(C)[O]1 10=20;20,21=21"
"CCN([C:20](=[O:10])OC(C(C([O-:21])[H])[H])C)CCCCCC>>CCN([C:20]1(OC(C(C([O:21]1)[H])[H])C)[O-:10])CCCCCC 21=20;20,10=10"
"[H][S+:10](C(C)C([H])C(C)[S]1)[C:20]1([O:21][H])[O]C.[Cl-]>>[Cl-].[H][S:10]C(C)C([H])C(C)[S][C:20]([O]C)=[O+:21][H] 21=20;20,10=10"
"[H][O:10][H].[H][NH+:21]=[C:20]([NH][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([NH:21][H])([NH][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CCCCCC)CCCCCC)C1=CC=CC=C1>>[H]N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CCCCCC)CCCCCC)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH]([H])C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH]([H])[CH](C)C([H])[O]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[O-:21][C:20]1([H])C(C)=C(C)C([H])C(CC)[O+:10]1([K])>>[O:10]([K])C(CC)C([H])/C(C)=C(C)\[C:20]([H])=[O:21] 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C7=CC=CC=C7)C(C)[CH](C)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C)[NH]2.CC[NH:10][H] 21=20;20,10=10"
"C[O+:10]([Li])[C:21]([O-:20])(OCCCCCC)OC>>[O:20]=[C:21](OCCCCCC)OC.C[O:10][Li] 20=21;21,10=10"
"[H][S+:10]([H])[C:20]([O:21][H])([S]C)[S][H].[Cl-]>>[Cl-].[H][S:10][H].[H][O+:21]=[C:20]([S]C)[S][H] 21=20;20,10=10"
"[H][O+:10](C([H])C([H])C(CC)[O]1)[C:20]1([NH:21]C)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C(CC)[O][C:20]([NH]CC)=[NH+:21]C 21=20;20,10=10"
